US08106064B2
(3,5-dichloro-2,6-difluoropyridin-4-yl)methyl benzoate (19.6 g, 61.6 mmol), anhydrous ethanol (150 ml), and 10% palladium on carbon (3 g) were placed into a 500 mL bottle. The mixture was hydrogenated under hydrogen atmosphere (50 psi) for 1.5 hr. The reaction mixture was filtered through celite pad and the pad was washed with ethanol. The combined filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ether:hexane (1:4)) to afford 9.15 g (61%) of (2,6-difluoropyridin-4-yl)methyl benzoate as a white solid. m.p. 83-84° C. 1H NMR (200 MHz, CDCl3) δ 5.42 (2H, s), 6.87 (2H, s), 7.45-7.67 (3H, m), 8.08-8.13 (2H, m).

reactant | (3,5-dichloro-2,6-difluoropyridin-4-yl)methyl benzoate | 61.6 mmol, 19.6 g | C(C1=CC=CC=C1)(=O)OCC1=C(C(=NC(=C1Cl)F)F)Cl | C13H7Cl2F2NO2
catalyst | palladium on carbon | 3 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (2,6-difluoropyridin-4-yl)methyl benzoate | 9.15 g, 61% | C(C1=CC=CC=C1)(=O)OCC1=CC(=NC(=C1)F)F | C13H9F2NO2
